US07799805B2
{2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-methyl-carbamic acid tert-butyl ester
K2CO3 (728 mg, 5.27 mmol) and methyl chloroformate (0.405 mL, 5.27 mmol) were added to a sol. of 2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethylamine (1.05 g mg, 3.51 mmol) in CH2Cl2 (36 mL). The mixture was stirred at rt for 1 h and methyl chloroformate (0.304 mL, 3.95 mmol) was added again. The mixture was stirred at rt for 1 h and methyl chloroformate (0.304 mL, 3.95 mmol) was added again. The mixture was stirred at rt for 1 h, and CH2Cl2 (30 mL) was added. The resulting mixture was washed with aq. sat. NH4Cl (2×), aq. 10% K2CO3 (1×) and brine (1×). The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure to yield the crude {2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-carbamic acid methyl ester. This crude product was dissolved in THF (36 mL). The sol. was cooled to 0° C., and LiAlH4 (400 mg, 10.5 mmol) was carefully added in portions. The mixture was allowed to warm up to rt, and was stirred at rt overnight. The mixture was poured onto aq. sat. potassium sodium tartrate (50 mL), and the mixture was stirred at rt for 2 h. The mixture was extracted with Et2O (3×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure to yield the crude {2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-methyl-amine. This crude product was dissolved in CH2Cl2 (36 mL). DIPEA (1.80 mL, 10.5 mmol) was added, followed by Boc2O (2.30 g, 10.5 mmol). The mixture was stirred at rt for 1 h, and CH2Cl2 (50 mL) was added. The mixture was washed with aq. 1M HCl, brine, aq. sat. NaHCO3, and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 4:1) yielded the title compound (1.00 g, 91%). LC-MS: tR=0.84 min; ES+: 355.23.

reactant | K2CO3 | 5.27 mmol, 728 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl chloroformate | 5.27 mmol, 0.405 mL | ClC(=O)OC | C2H3ClO2
reactant | 2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethylamine | 3.51 mmol, 1.05 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1Cl)CCN)(C)C | C15H26ClNOSi
reactant | methyl chloroformate | 3.95 mmol, 0.304 mL | ClC(=O)OC | C2H3ClO2
reactant | methyl chloroformate | 3.95 mmol, 0.304 mL | ClC(=O)OC | C2H3ClO2
reactant | LiAlH4 | 10.5 mmol, 400 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | potassium sodium tartrate | 50 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | DIPEA | 10.5 mmol, 1.80 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 10.5 mmol, 2.30 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 36 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 36 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 36 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | {2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-methyl-carbamic acid tert-butyl ester | 1.00 g, 91% | C(C)(C)(C)OC(N(C)CCC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C21H36ClNO3Si
